US07439253B2
56.0 g (of 1,1-dimethylethyl 3,5-dioxo-1-piperidinecarboxylate having the empirical formula C10H15NO4 (prepared by a method similar to that described in Heterocycles, 22, 2769-2773, (1984), replacing methyl chloroformate with (BOC)2O, are prepared as a suspension. 55.5 ml of N,N-dimethylformamide dimethyl acetal at 95% are added at room temperature. The medium is stirred for half an hour at 80° C. and then for 3 hours at 50° C. The solvent is evaporated off under reduced pressure. 79 g of 1,1-dimethylethyl 4-[(dimethylamino)methylene]-3,5-dioxo-1-piperidinecarboxylate having the empirical formula C13H20N2O4 are thus obtained. The corresponding yield is 99%.

reactant | 1,1-dimethylethyl 3,5-dioxo-1-piperidinecarboxylate | O=C1CN(CC(C1)=O)C(=O)OC(C)(C)C | C10H15NO4
reactant | (BOC)2O | O(C(=O)OC(C)(C)C)C(=O)OC(C)(C)C | C10H18O5
reactant | N,N-dimethylformamide dimethyl acetal | 55.5 ml | COC(N(C)C)OC | C5H13NO2
product | 1,1-dimethylethyl 4-[(dimethylamino)methylene]-3,5-dioxo-1-piperidinecarboxylate | 79 g, yield is 99% | CN(C)C=C1C(CN(CC1=O)C(=O)OC(C)(C)C)=O | C13H20N2O4
